US06730668B2
Preparation of 2-[2-(4-fluorophenyl)acetyl]-4-(4-nitro-phenoxycarbonyloxy)-pyrazolidine-1-carboxylic acid benzyl ester (39):
2-[2-(4-Fluorophenyl)acetyl]-4-hydroxy-pyrazolidine-1-carboxylic acid benzyl ester, 38, (366 mg, 1.02 mmol) is dissolved in dichloromethane (10 mL). The solution is cooled to 0° C. and p-nitrophenyl chloroformate (411 mg, 2.04 mmol) is added in one portion. The solution is stirred at 0° C., and pyridine (198 μL, 2.45 mmol) added. Stirring is continued at 0° C. for 1 hour followed by stirring at room temperature for 12 hours. The reaction is diluted with water (40 mL) and extracted with dichloromethane (40 mL). The organic layer is washed with 0.5 N NaOH (2×40 mL). The combined aqueous layers are back-extracted extracted with dichloromethane (30 mL). The combined organic layers are washed with brine (30 mL), dried, filtered, and concentrated in vacuo. The crude material is purified over silica (3:1 to 2:1 to 1:1 hexane/ethyl acetate) to afford 462 mg (86% yield) of the desired product as a white foam.

reactant | 2-[2-(4-Fluorophenyl)acetyl]-4-hydroxy-pyrazolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)O)C(CC1=CC=C(C=C1)F)=O | C19H19FN2O4
reactant | p-nitrophenyl chloroformate | 2.04 mmol, 411 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 2.45 mmol, 198 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 40 mL | O | H2O
product | 2-[2-(4-fluorophenyl)acetyl]-4-(4-nitro-phenoxycarbonyloxy)-pyrazolidine-1-carboxylic acid benzyl ester | 462 mg, 86% yield | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)OC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(CC1=CC=C(C=C1)F)=O | C26H22FN3O8
